US06232340B1
Synthesis of 6-hydroxymethyl-3-hydroxy-1-methyl-4-pyridinone (Hhmp):
A solution of 40% methylamine in water is added to a solution of kojic acid dissolved in hot distilled water. The pH of this solution is adjusted to 9.8 by the addition of HCl solution. The mixture is kept under reflux overnight and then decolorized with activated charcoal. The solvent is removed under reduced pressure. The white product is obtained upon recrystallization from hot water.

reactant | methylamine | CN | CH5N
reactant | kojic acid | C1=C(OC=C(C1=O)O)CO | C6H6O4
solvent | water | O | H2O
product | 6-hydroxymethyl-3-hydroxy-1-methyl-4-pyridinone | OCC1=CC(C(=CN1C)O)=O | C7H9NO3
